US05760032
Benzyl indole-2-carboxylate (10 g) was dissolved in DMF (100 ml). Sodium hydride (60% oil, 1.8 g) was added under ice-cooling, and the mixture was stirred for 30 minutes. Ethyl 5-bromopentanoate (6.7 ml) was further added and the mixture was stirred for 6 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The mixture was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography using a mixed solvent of ethyl acetate and hexane as an eluent to give 12.44 g of benzyl 1-(4-ethoxycarbonylbutyl)indole-2-carboxylate.

reactant | Benzyl indole-2-carboxylate | 10 g | N1C(=CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
reactant | Sodium hydride | 1.8 g | [H-].[Na+]
reactant | Ethyl 5-bromopentanoate | 6.7 ml | BrCCCCC(=O)OCC | C7H13BrO2
reactant | Water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | benzyl 1-(4-ethoxycarbonylbutyl)indole-2-carboxylate | 12.44 g | C(C)OC(=O)CCCCN1C(=CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C23H25NO4
